US07544699B2
To a solution of 4-chloro-6-methoxy-quinazoline-2-carboxylic acid ethyl ester (1.22 g, 4.574 mmol) in anhydrous DMF (4.0 mL) was added sodium ethanethiolate (3.07 g, 36.59 mmol) and the reaction mixture was heated at 140° C. for 3 h. Water and EtOAc was added . The pH of the aq. layer was adjusted to 6 with citric acid. The organic layer was separated and the aq. layer was extracted with EtOAc. The combined organic layer was washed with water, brine, dried (Na2SO4) and concentrated under reduced pressure to give 0.770 g of 4-ethylsulfanyl-6-hydroxy-quinazoline-2-carboxylic acid.

reactant | 4-chloro-6-methoxy-quinazoline-2-carboxylic acid ethyl ester | 4.574 mmol, 1.22 g | C(C)OC(=O)C1=NC2=CC=C(C=C2C(=N1)Cl)OC | C12H11ClN2O3
reactant | sodium ethanethiolate | 36.59 mmol, 3.07 g | C(C)[S-].[Na+]
reactant | Water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-ethylsulfanyl-6-hydroxy-quinazoline-2-carboxylic acid | 0.770 g | C(C)SC1=NC(=NC2=CC=C(C=C12)O)C(=O)O | C11H10N2O3S
